US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-{[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]carbonyl}benzamide
The title compound was prepared as described in Example 1A, substituting (2R)-2-(methoxymethyl)pyrrolidine for 3-methylbutan-1-amine and 4-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)benzoic acid for 4-nitrobenzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.18 (t, J=4.8 Hz, 1H), 8.49 (dd, J=7.0, 0.9 Hz, 1H), 7.95 (d, J=8.3 Hz, 2H), 7.88 (s, 1H), 7.57 (d, J=7.7 Hz, 2H), 7.52 (d, J=1.2 Hz, 1H), 7.40 (s, 1H), 6.86 (dd, J=7.0, 1.6 Hz, 1H), 4.52 (d, J=5.9 Hz, 2H), 3.62-2.88 (br m, 8H), 2.05-1.64 (br m, 4H); MS (ESI(+) m/e 393 (M+H)+.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 4-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)benzoic acid | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CC=C(C(=O)O)C=C2 | C16H13N3O3
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-{[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]carbonyl}benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C(=O)N2[C@H](CCC2)COC)=O | C22H24N4O3
